US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-pyrazol-4-yl)thiazole-4-carboxamide
1H-Pyrazole-4-carbothioic acid amide (1.0 g, 7.86 mmol) and 3-bromo-2-oxopropanoic acid (1.44 g, 8.65 mmol) were dissolved in dry THF under nitrogen atmosphere. The reaction mixture was heated at 60° C. for 4.5 h. The reaction mixture was cooled to RT and evaporated to dryness. (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (1.367 g, 5.24 mmol) and DCM were added to the reaction flask and the title compound was prepared using the method of Example 34(d). The product purified by Flash-chromatography and triturated using acetonitrile. Yield 37.7%. 1H-NMR (400 MHz; DMSO): δ 1.11 (d, 3H), 4.25-4.48 (m, 3H), 6.89 (d, 1H), 7.77 (d, 1H), 7.80 (d, 1H), 7.87 (dd, 1H), 7.93 (bs, 1H), 7.99 (d, 1H), 8.01 (s, 1H), 8.31 (d, 1H), 8.33 (bs, 1H), 13.31 (bs, 1H).

reactant | 1H-Pyrazole-4-carbothioic acid amide | 7.86 mmol, 1.0 g | N1N=CC(=C1)C(N)=S | C4H5N3S
reactant | 3-bromo-2-oxopropanoic acid | 8.65 mmol, 1.44 g | BrCC(C(=O)O)=O | C3H3BrO3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 5.24 mmol, 1.367 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-pyrazol-4-yl)thiazole-4-carboxamide | Yield 37.7% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C=1C=NNC1 | C20H16ClN7OS
